US07030141B2
Step 1: (2R,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
Cis-4-hydroxy-D-proline (15 g, 114 mmol) was dissolved In 150 mL of THF/H2O (2:1), added 2M aqueous NaOH solution (86 μmL, 172 mmol), followed by Boc2O (27 g, 126 mmol). Reaction was stirred at ambient temperature overnight. The solution was acidified with 10% citric acid then extracted with EtOAc (2×250 mL), washed with water, brine, dried organics with MgSO4, filtered and concentrated to yield title compound. (16 g, 61%) APCI (AP−): 230.1 (M−H)−.

reactant | Cis-4-hydroxy-D-proline | 114 mmol, 15 g | O[C@@H]1C[C@@H](NC1)C(=O)O | C5H9NO3
reactant | NaOH | 172 mmol, 2M | [OH-].[Na+]
reactant | Boc2O | 126 mmol, 27 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF H2O | 150 mL | C1CCOC1.O
product | (2R,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O)C(=O)O | C10H17NO5
